US06043361
Synthesis of 2-(hydroxymethyl)-6-methylene-1,4-dithiepane (1a-4)
Sodium metal (0.77 g) was dissolved in 35 mL of absolute ethanol at room temperature under nitrogen protection. Then 2,3-dimercapto-1-propanol (1.99 g, 1.6 mL, 16 mmoles) was added dropwise. The solution was taken up in a syringe and diluted to 44 mL. Solution 2. 2-(Chloromethyl)-3-chloro-1-propene (2 g, 16 mmoles) was dissolved in 30 mL of absolute ethanol. The solution was taken up into a syringe and diluted to a volume of 44 mL. Solutions 1 and 2 were added simultaneously (via syringe pump using separate teflon feed lines) to a 40 mL of absolute ethanol at room temperature under nitrogen protection over a period of one hour. After the addition was completed, the reaction was refluxed for one hour. The reaction was then worked up by evaporation of the solvent, dilution with water and extraction with ether. The ether extracts were dried and evaporated to give 2.6 g of oil. The oil was chromatographed on Silica gel using ether:hexane (1:3) to give 1.6 g (57%) of clear oil.

reactant | Sodium | 0.77 g | [Na] | Na
reactant | 2,3-dimercapto-1-propanol | 16 mmoles, 1.6 mL, 1.99 g | SC(CO)CS | C3H8OS2
reactant | 2-(Chloromethyl)-3-chloro-1-propene | 16 mmoles, 2 g | ClCC(=C)CCl | C4H6Cl2
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(hydroxymethyl)-6-methylene-1,4-dithiepane | 2.6 g | OCC1SCC(CSC1)=C | C7H12OS2
